US07132425B2
A solution of 5-[[bis[(1,1-dimethylethoxy)carbonyl]]amino]-2-pyrazinecarbonitrile (305.7 mg, 0.954 mmol) in dimethyl sulfoxide (5.8 mL) was treated with hydroxylamine hydrochloride (333.8 mg, 4.804 mmol) and piperidine (0.50 mL, 5.050 mmol). The reaction was stirred at 25° C. for 50 min and then was partitioned between ethyl acetate (100 mL) and water (50 mL). The organic layer was washed with water (50 mL) and a saturated aqueous sodium chloride solution (50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40L, Silica, 1/3 ethyl acetate/hexanes) afforded the 5-[[bis[(1,1-dimethylethoxy)carbonyl]]amino]-N-hydroxy-2-pyrazinecarboximidamide as a white solid (186.2 mg, 55%): mp 185–186° C.; (ES)+-HRMS m/e calcd for C15H23N5O5 (M+H)+ 354.1772, found 354.1775.

reactant | 5-[[bis[(1,1-dimethylethoxy)carbonyl]]amino]-2-pyrazinecarbonitrile | 0.954 mmol, 305.7 mg | CC(C)(OC(=O)N(C=1N=CC(=NC1)C#N)C(=O)OC(C)(C)C)C | C15H20N4O4
reactant | hydroxylamine hydrochloride | 4.804 mmol, 333.8 mg | Cl.NO
reactant | piperidine | 5.050 mmol, 0.50 mL | N1CCCCC1 | C5H11N
solvent | dimethyl sulfoxide | 5.8 mL | CS(=O)C | C2H6OS
product | 5-[[bis[(1,1-dimethylethoxy)carbonyl]]amino]-N-hydroxy-2-pyrazinecarboximidamide | 186.2 mg, 55% | CC(C)(OC(=O)N(C=1N=CC(=NC1)C(NO)=N)C(=O)OC(C)(C)C)C | C15H23N5O5
